US06187905B1
229 mg of 1-hydroxybenzotriazole monohydrate, 287 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 148 mg of (S)-(−)-1-phenylpropylamine were added in sequence to a solution of 260 mg of 3(S)-(tert-butoxyformamido)-2(S)-hydroxyheptanoic acid in 10 ml of dichloromethane. The mixture was stirred at room temperature for 3 hours, then diluted with dichloromethane and washed in sequence with 5% citric acid solution, saturated sodium bicarbonate solution and saturated brine. The organic phase was dried over anhydrous magnesium sulphate and the solvent was evaporated to give 285 mg of 3(S)-(tert-butoxyformamido)-2(S)-hydroxy-N-(1(S)-phenylpropyl)heptanamide, MS: m/e 379.1 [M+H]+.

reactant | 1-hydroxybenzotriazole monohydrate | 229 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 287 mg | Cl.CN(CCCN=C=NCC)C
reactant | (S)-(−)-1-phenylpropylamine | 148 mg | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
reactant | 3(S)-(tert-butoxyformamido)-2(S)-hydroxyheptanoic acid | 260 mg | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C(=O)O)O)CCCC | C12H23NO5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3(S)-(tert-butoxyformamido)-2(S)-hydroxy-N-(1(S)-phenylpropyl)heptanamide | 285 mg | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C(=O)N[C@@H](CC)C1=CC=CC=C1)O)CCCC | C21H34N2O4
